*************
*SRC=MPSMT25;MPSMT25;Connectors;Surface Mount;Berg Micropax
*SYM=MPSMT25
.SUBCKT MPSMT25  1  2  3  4  5  6  7  8  9  10  11  12  13  14  15  16
*
*From Berg 8 pin Micropax surface mount connector with .025Ó signal
*spacing. The subcircuit represents the matted connector. The
*subsections cannot be used individually. Model is valid for rise
*times of 500ps or greater. There is a ground plane through the
*center of the connector.
*     1-+-2
*     3-+-4
*     5-+-6
*     7-+-8
*     9-+-10
*    11-+-12
*    13-+-14
*    15-+-16
XXA 101 17 103 18 105 19 107 20 109 21 111 22 113 23 115 24 95 65  ASMT
XXB  17 25  18 26  19 27  20 28  21 29  22 30  23 31  24 32 65 66  BSMT
XXC  25 33  26 34  27 35  28 36  29 37  30 38  31 39  32 40 66 67  CSMT
XXD  33 41  34 42  35 43  36 44  37 45  38 46  39 47  40 48 67 68  DSMT
XXE  41 49  42 50  43 51  44 52  45 53  46 54  47 55  48 56 71 77  ESMT
XXF  49 57  50 58  51 59  52 60  53 61  54 62  55 63  56 64 77 78  FSMT
XXG  57 102 58 104 59 106 60 108 61 110 62 112 63 114 64 116 78 96 GSMT   
XXK1 68 69 71 70  CHOKE
XXK2 68 72 71 73  CHOKE
XXS1 69 91  STUB
XXS2 70 97  STUB
XXS3 72 92  STUB 
XXS4 73 98  STUB
R17 0 95 .01
R18 0 96 .01
R19 91 97 .01
R20 92 98 .01
R1 101 1 .01
R2 102 2 .01
R3 103 3 .01
R4 104 4 .01
R5 105 5 .01
R6 106 6 .01
R7 107 7 .01
R8 108 8 .01
R9 109 9 .01
R10 110 10 .01
R11 111 11 .01
R12 112 12 .01
R13 113 13 .01
R14 114 14 .01
R15 115 15 .01
R16 116 16 .01
.ENDS MPSMT25
*INCLUDE CONN.LIB
***********************
.SUBCKT STUB 1 2
*PORTS 1A 1B
*LENGTH 4.5  mm   
.SUBCKT SECT 1 2
L11 1 2 4.296240E-10
C11 2 0 1.722225E-13
.ENDS SECT
X1 1 3 SECT
X2 3 4 SECT
X3 4 2 SECT
.ENDS STUB
**********************
.SUBCKT CHOKE 1 2 3 4
*PORTS 1A 1B 2A 2B
*LENGTH 25.4  mm
.SUBCKT SECT 1 2 3 4
L11 1 2 1.203960E-09
L22 3 4 1.203960E-09
C11 2 0 5.384801E-13
C22 4 0 5.384801E-13
K12 L11 L22 8.776372E-01
C12 2 4 2.854113E-12
.ENDS SECT
X1 1 5 3 7 SECT
X2 5 6 7 8 SECT
X3 6 2 8 4 SECT
.ENDS CHOKE
********************
.SUBCKT ASMT 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18
*PORTS 1A 1B 2A 2B 3A 3B 4A 4B 5A 5B 6A 6B 7A 7B 8A 8B 9A 9B
*LENGTH 4.4 mm
.SUBCKT SECT 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18
L11 1 2 6.459200E-10
L22 3 4 7.041467E-10
L33 5 6 7.070800E-10
L44 7 8 7.072267E-10
L55 9 10 7.072267E-10
L66 11 12 7.070800E-10
L77 13 14 7.041467E-10
L88 15 16 6.459200E-10
L99 17 18 2.685467E-10
C11 2 0 1.956307E-17
C22 4 0 3.524335E-17
C33 6 0 5.194684E-17
C44 8 0 4.160626E-17
C55 10 0 2.702374E-17
C66 12 0 5.242795E-17
C77 14 0 2.072181E-17
C88 16 0 1.881768E-17
C99 18 0 3.156560E-13
K12 L11 L22 5.165045E-01
C12 2 4 1.664667E-14
K13 L11 L33 4.236309E-01
C13 2 6 1.777600E-16
K14 L11 L44 4.031888E-01
C14 2 8 2.871733E-18
K15 L11 L55 3.986318E-01
C15 2 10 1.547333E-19
K16 L11 L66 3.978050E-01
C16 2 12 5.428133E-22
K17 L11 L77 3.981978E-01
C17 2 14 9.822266E-20
K18 L11 L88 4.157584E-01
C18 2 16 2.029867E-20
K19 L11 L99 6.447933E-01
C19 2 18 1.134173E-13
K23 L22 L33 5.119529E-01
C23 4 6 1.674933E-14
K24 L22 L44 4.096445E-01
C24 4 8 1.792267E-16
K25 L22 L55 3.869904E-01
C25 4 10 2.977333E-18
K26 L22 L66 3.820420E-01
C26 4 12 6.821467E-20
K27 L22 L77 3.817954E-01
C27 4 14 1.436600E-19
K28 L22 L88 3.981978E-01
C28 4 16 7.902400E-20
K29 L22 L99 6.175588E-01
C29 4 18 8.786800E-14
K34 L33 L44 5.118739E-01
C34 6 8 1.674933E-14
K35 L33 L55 4.090014E-01
C35 6 10 1.793733E-16
K36 L33 L66 3.864344E-01
C36 6 12 3.106400E-18
K37 L33 L77 3.820420E-01
C37 6 14 8.426000E-21
K38 L33 L88 3.978050E-01
C38 6 16 7.015067E-22
K39 L33 L99 6.162765E-01
C39 6 18 8.758933E-14
K45 L44 L55 5.118209E-01
C45 8 10 1.674933E-14
K46 L44 L66 4.090014E-01
C46 8 12 1.793733E-16
K47 L44 L77 3.869904E-01
C47 8 14 2.634133E-18
K48 L44 L88 3.986318E-01
C48 8 16 5.332800E-20
K49 L44 L99 6.162126E-01
C49 8 18 8.757467E-14
K56 L55 L66 5.118739E-01
C56 10 12 1.674933E-14
K57 L55 L77 4.096445E-01
C57 10 14 1.795200E-16
K58 L55 L88 4.031888E-01
C58 10 16 2.685467E-18
K59 L55 L99 6.162126E-01
C59 10 18 8.757467E-14
K67 L66 L77 5.119529E-01
C67 12 14 1.674933E-14
K68 L66 L88 4.236309E-01
C68 12 16 1.776133E-16
K69 L66 L99 6.162765E-01
C69 12 18 8.758933E-14
K78 L77 L88 5.165045E-01
C78 14 16 1.664667E-14
K79 L77 L99 6.175588E-01
C79 14 18 8.785334E-14
K89 L88 L99 6.447933E-01
C89 16 18 1.134173E-13
.ENDS SECT
X1 1 19 3 21 5 23 7 25 9 27 11 29 13 31 15 33 17 35 SECT
X2 19 20 21 22 23 24 25 26 27 28 29 30 31 32 33 34 35 36 SECT
X3 20 2 22 4 24 6 26 8 28 10 30 12 32 14 34 16 36 18 SECT
.ENDS ASMT
***********************
.SUBCKT BSMT 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18
*PORTS 1A 1B 2A 2B 3A 3B 4A 4B 5A 5B 6A 6B 7A 7B 8A 8B 9A 9B
*LENGTH 3.4  mm
.SUBCKT SECT 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18
L11 1 2 4.168400E-10
L22 3 4 4.690867E-10
L33 5 6 4.771333E-10
L44 7 8 4.782666E-10
L55 9 10 4.782666E-10
L66 11 12 4.771333E-10
L77 13 14 4.690867E-10
L88 15 16 4.168400E-10
L99 17 18 1.328267E-10
C11 2 0 5.252960E-17
C22 4 0 4.455393E-17
C33 6 0 4.959208E-17
C44 8 0 5.465057E-17
C55 10 0 5.462346E-17
C66 12 0 4.955482E-17
C77 14 0 6.878585E-17
C88 16 0 5.254315E-17
C99 18 0 3.229660E-13
K12 L11 L22 5.341265E-01
C12 2 4 5.190666E-14
K13 L11 L33 3.867833E-01
C13 2 6 9.100666E-16
K14 L11 L44 3.317520E-01
C14 2 8 4.656866E-17
K15 L11 L55 3.106843E-01
C15 2 10 2.443467E-18
K16 L11 L66 3.029210E-01
C16 2 12 1.148067E-19
K17 L11 L77 3.024325E-01
C17 2 14 1.932333E-20
K18 L11 L88 3.191952E-01
C18 2 16 1.209267E-20
K19 L11 L99 5.644922E-01
C19 2 18 1.171867E-13
K23 L22 L33 5.423600E-01
C23 4 6 5.220133E-14
K24 L22 L44 3.809247E-01
C24 4 8 9.254800E-16
K25 L22 L55 3.191919E-01
C25 4 10 4.736200E-17
K26 L22 L66 2.956149E-01
C26 4 12 2.494467E-18
K27 L22 L77 2.889587E-01
C27 4 14 1.328267E-19
K28 L22 L88 3.024325E-01
C28 4 16 3.404533E-20
K29 L22 L99 5.321280E-01
C29 4 18 5.773200E-14
K34 L33 L44 5.435354E-01
C34 6 8 5.220133E-14
K35 L33 L55 3.800715E-01
C35 6 10 9.254800E-16
K36 L33 L66 3.175772E-01
C36 6 12 4.738467E-17
K37 L33 L77 2.956149E-01
C37 6 14 2.503533E-18
K38 L33 L88 3.029210E-01
C38 6 16 1.697733E-19
K39 L33 L99 5.276218E-01
C39 6 18 5.650800E-14
K45 L44 L55 5.438389E-01
C45 8 10 5.220133E-14
K46 L44 L66 3.800715E-01
C46 8 12 9.254800E-16
K47 L44 L77 3.191919E-01
C47 8 14 4.741866E-17
K48 L44 L88 3.106843E-01
C48 8 16 2.395867E-18
K49 L44 L99 5.269963E-01
C49 8 18 5.645133E-14
K56 L55 L66 5.435354E-01
C56 10 12 5.220133E-14
K57 L55 L77 3.809247E-01
C57 10 14 9.254800E-16
K58 L55 L88 3.317520E-01
C58 10 16 4.653467E-17
K59 L55 L99 5.269963E-01
C59 10 18 5.645133E-14
K67 L66 L77 5.423600E-01
C67 12 14 5.220133E-14
K68 L66 L88 3.867833E-01
C68 12 16 9.100666E-16
K69 L66 L99 5.276218E-01
C69 12 18 5.650800E-14
K78 L77 L88 5.341265E-01
C78 14 16 5.190666E-14
K79 L77 L99 5.321280E-01
C79 14 18 5.773200E-14
K89 L88 L99 5.644922E-01
C89 16 18 1.171867E-13
.ENDS SECT
X1 1 19 3 21 5 23 7 25 9 27 11 29 13 31 15 33 17 35 SECT
X2 19 20 21 22 23 24 25 26 27 28 29 30 31 32 33 34 35 36 SECT
X3 20 2 22 4 24 6 26 8 28 10 30 12 32 14 34 16 36 18 SECT
.ENDS BSMT
*************
.SUBCKT CSMT 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18
*PORTS 1A 1B 2A 2B 3A 3B 4A 4B 5A 5B 6A 6B 7A 7B 8A 8B 9A 9B
*LENGTH 1.4 mm
.SUBCKT SECT 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18
L11 1 2 1.725267E-10
L22 3 4 1.939000E-10
L33 5 6 1.968400E-10
L44 7 8 1.965133E-10
L55 9 10 1.945067E-10
L66 11 12 1.889533E-10
L77 13 14 1.737400E-10
L88 15 16 1.301067E-10
L99 17 18 5.572000E-11
C11 2 0 1.140106E-18
C22 4 0 1.245985E-18
C33 6 0 2.392021E-18
C44 8 0 1.637315E-18
C55 10 0 1.645785E-18
C66 12 0 1.628167E-17
C77 14 0 3.232481E-16
C88 16 0 1.051752E-14
C99 18 0 3.813134E-14
K12 L11 L22 5.363181E-01
C12 2 4 7.121333E-15
K13 L11 L33 3.892207E-01
C13 2 6 1.249733E-16
K14 L11 L44 3.330259E-01
C14 2 8 6.472666E-18
K15 L11 L55 3.079908E-01
C15 2 10 3.466400E-19
K16 L11 L66 2.892221E-01
C16 2 12 1.676733E-20
K17 L11 L77 2.582496E-01
C17 2 14 6.230000E-21
K18 L11 L88 1.816546E-01
C18 2 16 2.750067E-21
K19 L11 L99 5.678238E-01
C19 2 18 1.608600E-14
K23 L22 L33 5.439065E-01
C23 4 6 7.163333E-15
K24 L22 L44 3.815529E-01
C24 4 8 1.271200E-16
K25 L22 L55 3.164728E-01
C25 4 10 6.594000E-18
K26 L22 L66 2.828125E-01
C26 4 12 3.542467E-19
K27 L22 L77 2.473384E-01
C27 4 14 2.030000E-20
K28 L22 L88 1.726727E-01
C28 4 16 4.320400E-22
K29 L22 L99 5.351661E-01
C29 4 18 7.933333E-15
K34 L33 L44 5.438370E-01
C34 6 8 7.163333E-15
K35 L33 L55 3.770637E-01
C35 6 10 1.271200E-16
K36 L33 L66 3.048902E-01
C36 6 12 6.584667E-18
K37 L33 L77 2.546193E-01
C37 6 14 3.549000E-19
K38 L33 L88 1.745278E-01
C38 6 16 2.694533E-20
K39 L33 L99 5.293720E-01
C39 6 18 7.765333E-15
K45 L44 L55 5.406445E-01
C45 8 10 7.163333E-15
K46 L44 L66 3.671409E-01
C46 8 12 1.271200E-16
K47 L44 L77 2.780662E-01
C47 8 14 6.584667E-18
K48 L44 L88 1.827570E-01
C48 8 16 3.491133E-19
K49 L44 L99 5.262441E-01
C49 8 18 7.756000E-15
K56 L55 L66 5.316367E-01
C56 10 12 7.163333E-15
K57 L55 L77 3.404227E-01
C57 10 14 1.271200E-16
K58 L55 L88 2.047894E-01
C58 10 16 6.468000E-18
K59 L55 L99 5.190899E-01
C59 10 18 7.756000E-15
K67 L66 L77 5.066219E-01
C67 12 14 7.163333E-15
K68 L66 L88 2.633449E-01
C68 12 16 1.249733E-16
K69 L66 L99 5.002840E-01
C69 12 18 7.746666E-15
K78 L77 L88 4.264752E-01
C78 14 16 7.121333E-15
K79 L77 L99 4.511048E-01
C79 14 18 7.611333E-15
K89 L88 L99 3.185496E-01
C89 16 18 5.567333E-15
.ENDS SECT
X1 1 19 3 21 5 23 7 25 9 27 11 29 13 31 15 33 17 35 SECT
X2 19 20 21 22 23 24 25 26 27 28 29 30 31 32 33 34 35 36 SECT
X3 20 2 22 4 24 6 26 8 28 10 30 12 32 14 34 16 36 18 SECT
.ENDS CSMT
***********************
.SUBCKT DSMT 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18
*PORTS 1A 1B 2A 2B 3A 3B 4A 4B 5A 5B 6A 6B 7A 7B 8A 8B 9A 9B                     
*LENGTH 2.9  mm
.SUBCKT SECT 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18
L11 1 2 4.369333E-10
L22 3 4 4.659333E-10
L33 5 6 4.721200E-10
L44 7 8 4.732800E-10
L55 9 10 4.732800E-10
L66 11 12 4.721200E-10
L77 13 14 4.659333E-10
L88 15 16 4.369333E-10
L99 17 18 1.561167E-10
C11 2 0 7.691059E-18
C22 4 0 8.441530E-18
C33 6 0 1.536857E-17
C44 8 0 8.953138E-18
C55 10 0 8.919257E-18
C66 12 0 1.533299E-17
C77 14 0 8.451695E-18
C88 16 0 7.711388E-18
C99 18 0 7.930532E-14
K12 L11 L22 5.934539E-01
C12 2 4 1.449033E-14
K13 L11 L33 4.495074E-01
C13 2 6 4.126700E-16
K14 L11 L44 3.896481E-01
C14 2 8 6.919400E-17
K15 L11 L55 3.637141E-01
C15 2 10 1.468367E-17
K16 L11 L66 3.528804E-01
C16 2 12 3.251867E-18
K17 L11 L77 3.500735E-01
C17 2 14 7.299300E-19
K18 L11 L88 3.590708E-01
C18 2 16 1.638500E-19
K19 L11 L99 5.977465E-01
C19 2 18 3.089467E-14
K23 L22 L33 5.995596E-01
C23 4 6 1.455800E-14
K24 L22 L44 4.475230E-01
C24 4 8 4.283300E-16
K25 L22 L55 3.828853E-01
C25 4 10 7.276100E-17
K26 L22 L66 3.551190E-01
C26 4 12 1.549567E-17
K27 L22 L77 3.448133E-01
C27 4 14 3.450033E-18
K28 L22 L88 3.500735E-01
C28 4 16 7.353434E-19
K29 L22 L99 5.788456E-01
C29 4 18 1.845367E-14
K34 L33 L44 6.006140E-01
C34 6 8 1.455800E-14
K35 L33 L55 4.470351E-01
C35 6 10 4.292967E-16
K36 L33 L66 3.818592E-01
C36 6 12 7.296400E-17
K37 L33 L77 3.551190E-01
C37 6 14 1.548600E-17
K38 L33 L88 3.528804E-01
C38 6 16 3.284733E-18
K39 L33 L99 5.750405E-01
C39 6 18 1.796067E-14
K45 L44 L55 6.006945E-01
C45 8 10 1.455800E-14
K46 L44 L66 4.470351E-01
C46 8 12 4.292967E-16
K47 L44 L77 3.828853E-01
C47 8 14 7.276100E-17
K48 L44 L88 3.637141E-01
C48 8 16 1.471267E-17
K49 L44 L99 5.746910E-01
C49 8 18 1.787367E-14
K56 L55 L66 6.006140E-01
C56 10 12 1.455800E-14
K57 L55 L77 4.475230E-01
C57 10 14 4.283300E-16
K58 L55 L88 3.896481E-01
C58 10 16 6.918433E-17
K59 L55 L99 5.746910E-01
C59 10 18 1.787367E-14
K67 L66 L77 5.995596E-01
C67 12 14 1.455800E-14
K68 L66 L88 4.495074E-01
C68 12 16 4.126700E-16
K69 L66 L99 5.750405E-01
C69 12 18 1.796067E-14
K78 L77 L88 5.936682E-01
C78 14 16 1.449033E-14
K79 L77 L99 5.788456E-01
C79 14 18 1.845367E-14
K89 L88 L99 5.977465E-01
C89 16 18 3.089467E-14
.ENDS SECT
X1 1 19 3 21 5 23 7 25 9 27 11 29 13 31 15 33 17 35 SECT
X2 19 20 21 22 23 24 25 26 27 28 29 30 31 32 33 34 35 36 SECT
X3 20 2 22 4 24 6 26 8 28 10 30 12 32 14 34 16 36 18 SECT
.ENDS DSMT
*****************
.SUBCKT ESMT 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18
*PORTS 1A 1B 2A 2B 3A 3B 4A 4B 5A 5B 6A 6B 7A 7B 8A 8B 9A 9B
*LENGTH 1.0 mm
.SUBCKT SECT 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18
L11 1 2 1.056333E-10
L22 3 4 1.197333E-10
L33 5 6 1.247333E-10
L44 7 8 1.263000E-10
L55 9 10 1.263000E-10
L66 11 12 1.247333E-10
L77 13 14 1.197333E-10
L88 15 16 1.056333E-10
L99 17 18 2.391667E-11
C11 2 0 1.202787E-19
C22 4 0 3.684593E-18
C33 6 0 3.546527E-18
C44 8 0 2.934969E-18
C55 10 0 2.844337E-18
C66 12 0 3.486388E-18
C77 14 0 3.757438E-18
C88 16 0 2.354752E-19
C99 18 0 1.527133E-13
K12 L11 L22 5.862691E-01
C12 2 4 1.052333E-14
K13 L11 L33 4.100357E-01
C13 2 6 3.161667E-16
K14 L11 L44 3.200428E-01
C14 2 8 4.356667E-17
K15 L11 L55 2.714448E-01
C15 2 10 9.550000E-18
K16 L11 L66 2.450050E-01
C16 2 12 2.780334E-18
K17 L11 L77 2.330553E-01
C17 2 14 8.580000E-19
K18 L11 L88 2.367308E-01
C18 2 16 2.934334E-19
K19 L11 L99 4.759604E-01
C19 2 18 1.816000E-14
K23 L22 L33 6.079810E-01
C23 4 6 1.056333E-14
K24 L22 L44 4.220444E-01
C24 4 8 3.261000E-16
K25 L22 L55 3.231066E-01
C25 4 10 4.650000E-17
K26 L22 L66 2.685318E-01
C26 4 12 1.052000E-17
K27 L22 L77 2.401169E-01
C27 4 14 3.085667E-18
K28 L22 L88 2.330553E-01
C28 4 16 8.106667E-19
K29 L22 L99 4.471202E-01
C29 4 18 9.156668E-15
K34 L33 L44 6.148041E-01
C34 6 8 1.056667E-14
K35 L33 L55 4.257154E-01
C35 6 10 3.271667E-16
K36 L33 L66 3.238910E-01
C36 6 12 4.680000E-17
K37 L33 L77 2.685318E-01
C37 6 14 1.054667E-17
K38 L33 L88 2.450050E-01
C38 6 16 2.767000E-18
K39 L33 L99 4.381281E-01
C39 6 18 8.786667E-15
K45 L44 L55 6.165215E-01
C45 8 10 1.056667E-14
K46 L44 L66 4.257154E-01
C46 8 12 3.271667E-16
K47 L44 L77 3.231066E-01
C47 8 14 4.656667E-17
K48 L44 L88 2.714448E-01
C48 8 16 9.536668E-18
K49 L44 L99 4.354022E-01
C49 8 18 8.733334E-15
K56 L55 L66 6.148041E-01
C56 10 12 1.056667E-14
K57 L55 L77 4.220444E-01
C57 10 14 3.260667E-16
K58 L55 L88 3.200428E-01
C58 10 16 4.356667E-17
K59 L55 L99 4.354022E-01
C59 10 18 8.733334E-15
K67 L66 L77 6.079810E-01
C67 12 14 1.056333E-14
K68 L66 L88 4.100357E-01
C68 12 16 3.162333E-16
K69 L66 L99 4.381281E-01
C69 12 18 8.786667E-15
K78 L77 L88 5.862691E-01
C78 14 16 1.052667E-14
K79 L77 L99 4.471202E-01
C79 14 18 9.156668E-15
K89 L88 L99 4.759604E-01
C89 16 18 1.816000E-14
.ENDS SECT
X1 1 19 3 21 5 23 7 25 9 27 11 29 13 31 15 33 17 35 SECT
X2 19 20 21 22 23 24 25 26 27 28 29 30 31 32 33 34 35 36 SECT
X3 20 2 22 4 24 6 26 8 28 10 30 12 32 14 34 16 36 18 SECT
.ENDS ESMT
**************
.SUBCKT FSMT 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18
*PORTS 1A 1B 2A 2B 3A 3B 4A 4B 5A 5B 6A 6B 7A 7B 8A 8B 9A 9B
*LENGTH 3.3  mm
.SUBCKT SECT 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18
L11 1 2 4.247100E-10
L22 3 4 4.922500E-10
L33 5 6 5.109500E-10
L44 7 8 5.159000E-10
L55 9 10 5.159000E-10
L66 11 12 5.109500E-10
L77 13 14 4.922500E-10
L88 15 16 4.247100E-10
L99 17 18 9.347800E-11
C11 2 0 3.489776E-18
C22 4 0 1.731674E-17
C33 6 0 1.004242E-17
C44 8 0 2.232779E-17
C55 10 0 2.145704E-17
C66 12 0 1.035413E-17
C77 14 0 1.715750E-17
C88 16 0 3.435566E-18
C99 18 0 4.311780E-13
K12 L11 L22 5.064140E-01
C12 2 4 3.192200E-14
K13 L11 L33 3.423933E-01
C13 2 6 1.854600E-15
K14 L11 L44 2.704824E-01
C14 2 8 4.213000E-16
K15 L11 L55 2.359377E-01
C15 2 10 1.241900E-16
K16 L11 L66 2.194151E-01
C16 2 12 4.007300E-17
K17 L11 L77 2.138727E-01
C17 2 14 1.276000E-17
K18 L11 L88 2.242424E-01
C18 2 16 3.567300E-18
K19 L11 L99 4.692017E-01
C19 2 18 7.141200E-14
K23 L22 L33 5.316713E-01
C23 4 6 3.278000E-14
K24 L22 L44 3.527430E-01
C24 4 8 2.096600E-15
K25 L22 L55 2.697960E-01
C25 4 10 4.945600E-16
K26 L22 L66 2.296451E-01
C26 4 12 1.491600E-16
K27 L22 L77 2.114860E-01
C27 4 14 4.712400E-17
K28 L22 L88 2.138727E-01
C28 4 16 1.288100E-17
K29 L22 L99 4.359283E-01
C29 4 18 3.569500E-14
K34 L33 L44 5.384101E-01
C34 6 8 3.292300E-14
K35 L33 L55 3.556549E-01
C35 6 10 2.113100E-15
K36 L33 L66 2.701830E-01
C36 6 12 5.049000E-16
K37 L33 L77 2.296451E-01
C37 6 14 1.493800E-16
K38 L33 L88 2.194151E-01
C38 6 16 3.997400E-17
K39 L33 L99 4.278768E-01
C39 6 18 3.268100E-14
K45 L44 L55 5.396589E-01
C45 8 10 3.289000E-14
K46 L44 L66 3.556549E-01
C46 8 12 2.118600E-15
K47 L44 L77 2.697960E-01
C47 8 14 4.966500E-16
K48 L44 L88 2.359377E-01
C48 8 16 1.247400E-16
K49 L44 L99 4.258693E-01
C49 8 18 3.196600E-14
K56 L55 L66 5.384101E-01
C56 10 12 3.291200E-14
K57 L55 L77 3.527430E-01
C57 10 14 2.096600E-15
K58 L55 L88 2.704824E-01
C58 10 16 4.217400E-16
K59 L55 L99 4.258693E-01
C59 10 18 3.196600E-14
K67 L66 L77 5.316713E-01
C67 12 14 3.278000E-14
K68 L66 L88 3.423933E-01
C68 12 16 1.855700E-15
K69 L66 L99 4.278768E-01
C69 12 18 3.268100E-14
K78 L77 L88 5.064140E-01
C78 14 16 3.192200E-14
K79 L77 L99 4.359283E-01
C79 14 18 3.569500E-14
K89 L88 L99 4.692017E-01
C89 16 18 7.141200E-14
.ENDS SECT
X1 1 19 3 21 5 23 7 25 9 27 11 29 13 31 15 33 17 35 SECT
X2 19 20 21 22 23 24 25 26 27 28 29 30 31 32 33 34 35 36 SECT
X3 20 2 22 4 24 6 26 8 28 10 30 12 32 14 34 16 36 18 SECT
.ENDS FSMT
***************
.SUBCKT GSMT 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18
*PORTS 1A 1B 2A 2B 3A 3B 4A 4B 5A 5B 6A 6B 7A 7B 8A 8B 9A 9B
*LENGTH 4.3  mm
.SUBCKT SECT 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18
L11 1 2 5.895300E-10
L22 3 4 6.428501E-10
L33 5 6 6.465767E-10
L44 7 8 6.468633E-10
L55 9 10 6.468633E-10
L66 11 12 6.465767E-10
L77 13 14 6.428501E-10
L88 15 16 5.895300E-10
L99 17 18 1.628267E-10
C11 2 0 1.619527E-18
C22 4 0 1.054387E-17
C33 6 0 2.005774E-17
C44 8 0 1.912262E-17
C55 10 0 1.896676E-17
C66 12 0 2.019327E-17
C77 14 0 1.064551E-17
C88 16 0 7.521653E-19
C99 18 0 1.697353E-13
K12 L11 L22 4.216556E-01
C12 2 4 1.570933E-14
K13 L11 L33 3.036631E-01
C13 2 6 3.394134E-16
K14 L11 L44 2.741182E-01
C14 2 8 1.900600E-17
K15 L11 L55 2.664587E-01
C15 2 10 1.385317E-18
K16 L11 L66 2.646605E-01
C16 2 12 1.758700E-19
K17 L11 L77 2.649608E-01
C17 2 14 1.110117E-20
K18 L11 L88 2.764405E-01
C18 2 16 4.082133E-20
K19 L11 L99 5.260075E-01
C19 2 18 1.014227E-13
K23 L22 L33 4.241903E-01
C23 4 6 1.585267E-14
K24 L22 L44 2.965117E-01
C24 4 8 3.480134E-16
K25 L22 L55 2.640600E-01
C25 4 10 1.952200E-17
K26 L22 L66 2.556702E-01
C26 4 12 1.280827E-18
K27 L22 L77 2.541806E-01
C27 4 14 4.674100E-20
K28 L22 L88 2.649608E-01
C28 4 16 9.812600E-21
K29 L22 L99 5.037210E-01
C29 4 18 8.053900E-14
K34 L33 L44 4.242022E-01
C34 6 8 1.585267E-14
K35 L33 L55 2.958777E-01
C35 6 10 3.478700E-16
K36 L33 L66 2.633562E-01
C36 6 12 1.963667E-17
K37 L33 L77 2.556702E-01
C37 6 14 1.210880E-18
K38 L33 L88 2.646605E-01
C38 6 16 8.124133E-20
K39 L33 L99 5.022672E-01
C39 6 18 8.005167E-14
K45 L44 L55 4.243297E-01
C45 8 10 1.585267E-14
K46 L44 L66 2.958777E-01
C46 8 12 3.480134E-16
K47 L44 L77 2.640600E-01
C47 8 14 1.955067E-17
K48 L44 L88 2.664587E-01
C48 8 16 1.233813E-18
K49 L44 L99 5.021560E-01
C49 8 18 8.002300E-14
K56 L55 L66 4.242022E-01
C56 10 12 1.585267E-14
K57 L55 L77 2.965117E-01
C57 10 14 3.477267E-16
K58 L55 L88 2.741182E-01
C58 10 16 1.884833E-17
K59 L55 L99 5.021560E-01
C59 10 18 8.002300E-14
K67 L66 L77 4.241903E-01
C67 12 14 1.585267E-14
K68 L66 L88 3.036631E-01
C68 12 16 3.391267E-16
K69 L66 L99 5.022672E-01
C69 12 18 8.005167E-14
K78 L77 L88 4.216556E-01
C78 14 16 1.570933E-14
K79 L77 L99 5.037210E-01
C79 14 18 8.053900E-14
K89 L88 L99 5.260075E-01
C89 16 18 1.014227E-13
.ENDS SECT
X1 1 19 3 21 5 23 7 25 9 27 11 29 13 31 15 33 17 35 SECT
X2 19 20 21 22 23 24 25 26 27 28 29 30 31 32 33 34 35 36 SECT
X3 20 2 22 4 24 6 26 8 28 10 30 12 32 14 34 16 36 18 SECT
.ENDS GSMT
********************
*SRC=DTYPE;DTYPE;Connectors;D-Type;Full connector
*SYM=DCONN
.SUBCKT DTYPE 9 10 11 12 13 14 15 16 17  18 19 29 21 22 23 24 25 26 27
X1 9 10 11 12 13 14 15 16 17 45 1 2 3 4 5 6 7 8 DTYPEL
X2 45 1 2 3 4 5 6 7 8 18 19 20 21 22 23 24 25 26 DTYPEL
X3 27 45 1 2 3 4 5 6 7 8 DTYPEC
*DtypeL 9 input pins, 9 output pins
*DtypeC 9 connections 1 shell connections
.ENDS
*INCLUDE CONN.LIB
**********
*SYM=DTYPEL
.SUBCKT DTYPEL 1 2 3 4 5 6 7 8 9 11 12 13 14 15 16 17 18 19 
L1 1 11 7.639875E-8 
K12 L1 L2 .9685417
K13 L1 L3 .9479129
K14 L1 L4 .930262
K15 L1 L5 .911931
K16 L1 L6 .9662523
K17 L1 L7 .9539478
K18 L1 L8 .937921
K19 L1 L9 .9212973
L2 2 12 7.50599E-8
K23 L2 L3 .969645
K24 L2 L4 .9495605
K25 L2 L5 .9303758
K26 L2 L6 .9699131
K27 L2 L7 .970637
K28 L2 L8 .9563634
K29 L2 L9 .9396611
L3  3 13 7.46901E-8
K34 L3 L4 .9696554
K35 L3 L5 .9480674
K36 L3 L6 .9559917
K37 L3 L7 .9707597
K38 L3 L8 .9707695
K39 L3 L9 .9560725
L4 4 14 7.50586E-8
K45 L4 L5 .9687531
K46 L4 L6 .9395995
K47 L4 L7 .9563722
K48 L4 L8 .9706758
K49 L4 L9 .9699945
L5 5 15 7.639965E-8
K56 L5 L6 .9213397
K57 L5 L7 .9380332
K58 L5 L8 .9540826
K59 L5 L9 .9662825
L6 6 16 7.57344E-8
K67 L6 L7 .9695488
K68 L6 L8 .9493833
K69 L6 L9 .9316189
L7 7 17 7.48376E-8
K78 L7 L8 .9696828
K79 L7 L9 .9494563
L8 8 18 7.483455E-8
K89 L8 L9 .9696515
L9 9 19 7.572465E-8
.ENDS
*******************
*SYM=DTYPEC
.SUBCKT DTYPEC 0 1 2 3 4 5 6 7 8 9
C1  0  1   1.767435E-12 
C2  0  2   8.082467E-13 
C3  0  3   8.065983E-13 
C4  0  4   8.093696E-13 
C5  0  5   1.782285E-12 
C6  0  6   1.392806E-12 
C7  0  7   8.11698E-13 
C8  0  8   8.05079E-13 
C9  0  9   1.412564E-12 
C10  1  2   7.74641E-13 
C11  1  3   5.000185E-15 
C12  1  4   4.650465E-16 
C13  1  5   5.195614E-17 
C14  1  6   6.476954E-13 
C15  1  7   3.721256E-15 
C16  1  8   1.017786E-16 
C17  1  9   8.993374E-18 
C18  2  3   7.731195E-13 
C19  2  4   4.925425E-15 
C20  2  5   4.329798E-16 
C21  2  6   5.477656E-13 
C22  2  7   5.476347E-13 
C23  2  8   2.667314E-15 
C24  2  9   4.349578E-18 
C25  3  4   7.721223E-13 
C26  3  5   5.906145E-15 
C27  3  6   2.578903E-15 
C28  3  7   5.473915E-13 
C29  3  8   5.469292E-13 
C30  3  9   2.591531E-15 
C31  4  5   7.758252E-13 
C32  4  6   4.903657E-18 
C33  4  7   2.516453E-15 
C34  4  8   5.471476E-13 
C35  4  9   5.480604E-13 
C36  5  6   9.899707E-18 
C37  5  7   5.708452E-17 
C38  5  8   3.224737E-15 
C39  5  9   6.532309E-13 
C40  6  7   7.776643E-13 
C41  6  8   5.180271E-15 
C42  6  9   4.238888E-16 
C43  7  8   7.728026E-13 
C44  7  9   5.461203E-15 
C45  8  9   7.792718E-13 
.ENDS
************************
